US04941909
3.0 g of potassium 2-chloro-4-fluoro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate and 0.6 ml of epichlorohydrin are heated at 70° C. for 3 hours in 25 ml of dimethylformamide. Thereafter, the reaction solution is added to 500 ml of water and adjusted to pH 10 to 11 with a small amount of saturated potassium carbonate solution. It is extracted twice with 300 ml of ethyl acetate. The organic phases are washed twice with 200 ml of water, dried over anhydrous magnesium sulphate and concentrated. The residue is purified by chromatography on silica gel with ethyl acetate/n-hexane. There is obtained 2,3-epoxypropyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate as a pale yellow oil, 1H-NMR(D6 -DMSO, 400 MHz): 2.73 (m,1H), 2.85 (m,1H), 32 (m,1H), 3.42 (s,3H), 4.10 (m,1H), 4.69 (m,1H), 6.62 (s,1H), 7.92 (d,1H), 8.11 (d,1H), mass spectrum (m/e): M+ 422(16).

reactant | potassium 2-chloro-4-fluoro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate | 3.0 g | ClC1=C(C(=O)[O-])C=C(C(C1)(F)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O.[K+]
reactant | epichlorohydrin | 0.6 ml | C(Cl)C1CO1 | C3H5ClO
reactant | water | 500 ml | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2,3-epoxypropyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OCC2CO2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C16H11ClF4N2O5
